US05994312
4-Phthalimidobutanoic Acid
N-Carboethoxyphthalimide (10.96 g) was added on one portion to a vigorously stirred solution of 4-aminobutanoic acid (5.16 g) and sodium carbonate (5.35 g) in water (150 ml) at RT. The mixture was stirred until essentially all the solid material had dissolved (30 min), then it was filtered. The filtrate was acidified to pH1 with 6N aqueous hydrochloric acid (ca. 22 ml) and the white precipitate was collected by filtration and washed thoroughly with water (150 ml). The solid was dried in air, then in vacuo to give the title compound as a colourless solid (7.35 g).

reactant | N-Carboethoxyphthalimide | 10.96 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | 4-aminobutanoic acid | 5.16 g | NCCCC(=O)O | C4H9NO2
reactant | sodium carbonate | 5.35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 150 ml | O | H2O
product | 4-Phthalimidobutanoic Acid | 7.35 g | C1(C=2C(C(N1CCCC(=O)O)=O)=CC=CC2)=O | C12H11NO4
